US08476434B2
Synthesis of 3-Ethynyl-5-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-N-(3-trifluoromethyl-phenyl)-benzamide
To a solution of 3-Bromo-5-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-N-(3-trifluoromethyl-phenyl)-benzamide (110 mg, 0.20 mmol), acetonitrile (5 mL) and Et3N (1 mL) in a sealed tube was added trimethylsilyl acetylene (0.14 mL, 1.0 mmol) followed by PdCl2(PPh3)2 (14 mg, 0.02 mmol) and CuI (4.0 mg, 0.02 mmol). The tube was sealed and heated at 85° C. for 15 h. The mixture was allowed to cool to room temperature and concentrated under reduced pressure. The resulting crude mixture was reconstituted in methanol (5 mL), saturated with solid K2CO3 (˜200 mg) and allowed to stir at room temperature for 1 h. The resulting mixture was concentrated under reduced pressure and reconstituted in EtOAc (20 mL). The organic phase was washed successively with water (2×5 mL) and brine (1×5 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The crude was purified via RP-HPLC to afford the title compound as an off-white solid. MS m/z=490 [M+1]+, Calc'd for C26H18F3N5O2: 489.45.

reactant | 3-Bromo-5-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-N-(3-trifluoromethyl-phenyl)-benzamide | 0.20 mmol, 110 mg | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=C(C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H17BrF3N5O2
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | trimethylsilyl acetylene | 1.0 mmol, 0.14 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | PdCl2(PPh3)2 | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.02 mmol, 4.0 mg | [Cu]I
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
product | 3-Ethynyl-5-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-N-(3-trifluoromethyl-phenyl)-benzamide | C(#C)C=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=C(C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C26H18F3N5O2
